US04160863
Cefadroxil Monohydrate (crystallization from butanol-water)
Primary grade cefadroxil (11.7 g.) was added to a 48° C. mixture of 8.35 ml. water and 7.0 ml. n-butanol in 1 g. increments over a two hour period. The reaction mixture was initially seeded with crystals of cefadroxil.H2O was stirred during the two hour addition step. The crystal slurry was allowed to cool to room temperature (approximately two hours) and was filtered. The filter cake was washed with n-butanol, water and isopropanol and dried to give 9.4 g. (82.7%) of title product. Biopotency=940 mcg./mg. K.F.=5.3%. Chemical potency=966 mcg./mg.

reactant | cefadroxil | 11.7 g | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O | C16H17N3O5S
reactant | n-butanol | C(CCC)O | C4H10O
solvent | H2O | O | H2O
product | Cefadroxil Monohydrate | 82.7% | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)SC1)C(=O)O.O | InChI=1S/C16H17N3O5S.H2O/c1-7-6-25-15-11(14(22)19(15)12(7)16(23)24)18-13(21)10(17)8-2-4-9(20)5-3-8;/h2-5,10-11,15,20H,6,17H2,1H3,(H,18,21)(H,23,24);1H2/t10-,11-,15-;/m1./s1
